US08648068B2
V.1. 4-(4-Fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (2.43 g), 2-amino-5-fluorophenol (2.43 g) and p-toluenesulfonic acid (190.0 mg) were dissolved in dioxane (50.0 ml) and heated at 120° C. for 4 h under nitrogen. The reaction mixture was allowed to cool and treated with 3M NH4OH. The resultant suspension was filtered, the solid was washed with ether and dried in vacuo at 60° C. over P2O5.

reactant | 4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 2.43 g | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | 2-amino-5-fluorophenol | 2.43 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | p-toluenesulfonic acid | 190.0 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NH4OH | 3M | [NH4+].[OH-]
solvent | dioxane | 50.0 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Fluoro-2-hydroxy-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O)S1)C | C15H12FN3O3S
